US07354933B2
5.12 ml of triethylamine and 2.8 g of methyl α-aminoisobutyrate hydrochloride are added to a solution of 4 g of 4-trifluoromethylsulfanylphenyl isocyanate in 40 ml of toluene, under an inert atmosphere of argon at a temperature in the region of 20° C. The mixture thus obtained is refluxed for 24 hours and then cooled to a temperature in the region of 20° C. The reaction mixture is concentrated to dryness under reduced pressure and the residue obtained is taken up in ethyl ether and filtered. 5.3 g of 5,5-dimethyl-3-(4-trifluoromethylsulfanylphenyl)-imidazolidine-2,4-dione are thus obtained, the characteristics of which product are as follows:

reactant | triethylamine | 5.12 ml | C(C)N(CC)CC | C6H15N
reactant | methyl α-aminoisobutyrate hydrochloride | 2.8 g | Cl.NC(C(=O)OC)(C)C
reactant | 4-trifluoromethylsulfanylphenyl isocyanate | 4 g | FC(F)(F)SC1=CC=C(C=C1)N=C=O | C8H4F3NOS
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl ether | C(C)OCC | C4H10O
product | 5,5-dimethyl-3-(4-trifluoromethylsulfanylphenyl)-imidazolidine-2,4-dione | 5.3 g | CC1(C(N(C(N1)=O)C1=CC=C(C=C1)SC(F)(F)F)=O)C | C12H11F3N2O2S
